US06762205B1
A mixture composed of 392 mg of 2-bromophenylacetonitrile, 334 mg of 4-methoxyphenylboronic acid, 0.9 mg of palladium acetate, 691 mg of potassium acetate, 645 mg of tetrabutylammonium bromide, and 2.2 ml of distilled water was stirred at 70° C. for 2 hours under an atmosphere of nitrogen. After the reaction mixture was poured into a saturated aqueous solution of sodium chloride, the product was extracted with ethyl acetate The organic layer was washed with water and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the resulting crude product was purified by silica gel column chromatography (using a 3:1 mixture of hexane and ethyl acetate as the eluent) to obtain 343 mg of 4′-methoxy-2-biphenylaceto-nitrile.

reactant | 2-bromophenylacetonitrile | 392 mg | BrC1=C(C=CC=C1)CC#N | C8H6BrN
reactant | 4-methoxyphenylboronic acid | 334 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium acetate | 691 mg | C(C)(=O)[O-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
catalyst | tetrabutylammonium bromide | 645 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 0.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 2.2 ml | O | H2O
product | 4′-methoxy-2-biphenylaceto-nitrile | 343 mg | COC1=CC=C(C=C1)C=1C(=CC=CC1)CC#N | C15H13NO
